US06365321B1
The Synthesis of the Protected Hydroxystyrene Copolymer
A 22 L reactor was charged with 2.919 kg acetoxystyrene, 1.538 kg t-butyl acrylate, 231 g BPO and 6 L toluene. The reactor was purged with nitrogen, and the reaction solution was heated at 60° C. under a N2 atmosphere for 23 h. The solution was then cooled to room temperature, diluted with an additional 12 L of toluene, and 248 L of heptane:isopropyl alcohol (30:1) was added. The precipitate was collected by vacuum filtration, and washed with 24 L heptane. The solid was recrystalized by first dissolving it in 15 L acetone and then adding 300 L isopropyl alcohol:water (51:24 v/v). The product was collected by vacuum filtration, rinsed with 30 L 1:1 isoproyl alcohol:water, and then dried at 50-55° C. under vacuum to a constant weight.

reactant | acetoxystyrene | 2.919 kg | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
reactant | t-butyl acrylate | 1.538 kg | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | toluene | 6 L | C1(=CC=CC=C1)C | C7H8
product | Hydroxystyrene | OC=CC1=CC=CC=C1 | C8H8O
